US05852016
3-(Hydroxymethyl)-1 -(triphenylmethyl)pyrazole
This compound was prepared from 3-(hydroxymethyl)-1 H-pyrazole, [J. Am. Chem. Soc, 71, 3996, (1949)], trityl chloride and trimethylamine using the method of Preparation 18, above. The crude product was purified by flash chromatography (gradient elution with hexane/ethyl acetate) to give a white solid (1.428 g, 60%).

reactant | 3-(hydroxymethyl)-1 H-pyrazole | OCC1=NNC=C1 | C4H6N2O
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | trimethylamine | CN(C)C | C3H9N
product | 3-(Hydroxymethyl)-1 -(triphenylmethyl)pyrazole | 1.428 g, 60% | OCC1=NN(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
